US04936892
2 ml (0.021 mol) of acetic anhydride and 0.9 ml (0.02 mol) of 98% strength nitric acid are successively added to 6 g (0.019 mol) of 5-acetamido-1-(2-chloro-6-fluoro-4-trifluoromethylphenyl)-pyrazole in 15 ml of glacial acetic acid at room temperature, and the mixture is stirred at room temperature for 15 hours. For working-up, the reaction mixture is added dropwise to 200 ml of ice-water, and the precipitate formed is filtered off, washed with water and dried in vacuo at 50° C. 5.8 g (85% of theory) of 5-acetamido-4-nitro-1-(2-chloro-6-fluoro-4-trifluoromethylphenyl)-pyrazole of melting point 129°-130° C. are obtained.

reactant | acetic anhydride | 0.021 mol, 2 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | 5-acetamido-1-(2-chloro-6-fluoro-4-trifluoromethylphenyl)-pyrazole | 0.019 mol, 6 g | C(C)(=O)NC1=CC=NN1C1=C(C=C(C=C1F)C(F)(F)F)Cl | C12H8ClF4N3O
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | 5-acetamido-4-nitro-1-(2-chloro-6-fluoro-4-trifluoromethylphenyl)-pyrazole | 5.8 g, 85% | C(C)(=O)NC1=C(C=NN1C1=C(C=C(C=C1F)C(F)(F)F)Cl)[N+](=O)[O-] | C12H7ClF4N4O3
